US05811433
h. Ethyl 2-(4,5,6-trichloronicotinoyl)-3-ethoxy-acrylate
87.0 g (0.29 mol) of ethyl 2-(4,5,6-trichloronicotinoyl)acetate are heated with 56.2 g of (0.38 mol) of ethyl orthoformate and 65.2 g of acetic anhydride at 150°-160° C. for two hours. All volatile components are removed, initially in vacuo and then under a high vacuum up to 100° C.

reactant | ethyl 2-(4,5,6-trichloronicotinoyl)acetate | 0.29 mol, 87.0 g | ClC1=C(C(=NC=C1C(=O)CC(=O)OCC)Cl)Cl | C10H8Cl3NO3
reactant | ethyl orthoformate | 0.38 mol, 56.2 g | C(OCC)([O-])[O-]
reactant | acetic anhydride | 65.2 g | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 2-(4,5,6-trichloronicotinoyl)-3-ethoxy-acrylate | ClC1=C(C(=NC=C1C(=O)C(C(=O)OCC)=COCC)Cl)Cl | C13H12Cl3NO4
